US08629147B2
(S)-1-(3-Chloro-phenyl)-2-(3-[1,3]dioxolan-2-yl-2-methoxy-pyridin-4-ylamino)-ethanol
A suspension of 3-[1,3]dioxolan-2-yl-4-iodo-2-methoxy-pyridine (3.07 g, 10.0 mmol), (S)-2-amino-1-(3-chloro-phenyl)-ethanol (1.71 g, 10 mmol), CuI (190 mg, 1.0 mmol), ethylene glycol (1.86 g, 30 mmol) and K3PO4 (6.3 g, 30 mmol) in 2-propanol (200 mL) was sealed and heated at 75° C. for 22 h (CuI and K3PO4 were crushed into powders before added). After cooled down to room temperature, the reaction mixture was loaded on silica gel. The chromatography with eluant CH2Cl2: MeOH=100:1 afforded the title product (1.27 g, 38%). 1H NMR (CDCl3) δ 3.30 (m, 1H) 3.45 (m, 1H), 3.87 (s, 3H), 3.96-4.05 (4H), 4.85 n (m, 1H), 6.09 (s, 1H), 6.15-6.30 (2H), 7.21-7.35 (2H), 7.41 (s, 1H), 7.82 (d, J=6 Hz, 1H). ESI-MS m/z 351.4 (MH+).

reactant | 3-[1,3]dioxolan-2-yl-4-iodo-2-methoxy-pyridine | 10.0 mmol, 3.07 g | O1C(OCC1)C=1C(=NC=CC1I)OC | C9H10INO3
reactant | (S)-2-amino-1-(3-chloro-phenyl)-ethanol | 10 mmol, 1.71 g | NC[C@@H](O)C1=CC(=CC=C1)Cl | C8H10ClNO
reactant | ethylene glycol | 30 mmol, 1.86 g | C(CO)O | C2H6O2
reactant | K3PO4 | 30 mmol, 6.3 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | 2-propanol | 200 mL | CC(C)O | C3H8O
catalyst | CuI | 1.0 mmol, 190 mg | [Cu]I
solvent | MeOH | CO | CH4O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (S)-1-(3-Chloro-phenyl)-2-(3-[1,3]dioxolan-2-yl-2-methoxy-pyridin-4-ylamino)-ethanol | 1.27 g, 38% | ClC=1C=C(C=CC1)[C@@H](CNC1=C(C(=NC=C1)OC)C1OCCO1)O | C17H19ClN2O4
